US04791225
2,3-Dichloro-4,5-difluoroaniline
To a suspension of iron powder (1.9 g) in water (3 ml), with vigorous stirring at 50° to 60 ° C., was added concentrated hydrochloric acid (0.4 ml) slowly. After mixed with ethanol (7 ml), 2,3-dichloro-4,5-difluoronitrobenzene (2.47 g) in ethanol (3 ml) was added dropwise to the suspension at 54° to 66° C. during 20 minutes. After stirring for 4 hours at the same temperature, the hot reaction mixture mixed with benzene was filtered and the insoluble materials were washed with hot ethanol (5 ml) and with benzene (20 ml) successively. The filtrate and washings were combined and mixed with ice water. The resulting organic layer was collected, washed with water, dried over anhydrous sodium sulfate and then concentrated. The resulting residue was purified by silica gel chromatography eluting with dichloromethane-n-hexane (1:3) to give the title compound (0.89 g) as colorless needles, mp 94°-97.5° C.

reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | 2,3-dichloro-4,5-difluoronitrobenzene | 2.47 g | ClC1=C(C=C(C(=C1Cl)F)F)[N+](=O)[O-] | C6HCl2F2NO2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | 3 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | iron | 1.9 g | [Fe] | Fe
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 2,3-Dichloro-4,5-difluoroaniline | 0.89 g | ClC1=C(N)C=C(C(=C1Cl)F)F | C6H3Cl2F2N
